US08754229B2
Preparation of methyl 4-amino-6-(4-ethynylphenyl)-5-fluoro-3-methoxypicolinate (Compound 30)
To a 20 mL reaction vial were added methyl 4-amino-5-fluoro-6-(4-formylphenyl)-3-methoxypicolinate (0.41 g, 1.347 mmol), K2CO3 (0.372 g, 2.69 mmol), and CH3OH (20 mL). Dimethyl 1-diazo-2-oxopropylphosphonate (0.311 g, 1.617 mmol) was added in one portion. After stirring for 4 h, the reaction mixture was diluted with Et2O (50 mL) and washed with 5% NaHCO3 (25 mL). The organic layer was dried over MgSO4 (5 g), filtered, and concentrated on a rotary evaporator. The resulting residue was purified using a Teledyne ISCO purification system with a gradient eluent system of CH2Cl2 and EtOAc to yield the title compound as an off-white solid (297 mg, 73%): 1H NMR (400 MHz, CDCl3) δ 7.93-7.85 (m, 2H), 7.62-7.53 (m, 2H), 4.57 (s, 2H), 3.98 (s, 3H), 3.96 (s, 3H), 3.15 (s, 1H); 19F NMR (376 MHz, CDCl3) δ −139.97; ESIMS m/z 301 ([M+H]+), 299 ([M−H]−).

reactant | methyl 4-amino-5-fluoro-6-(4-formylphenyl)-3-methoxypicolinate | 1.347 mmol, 0.41 g | NC1=C(C(=NC(=C1F)C1=CC=C(C=C1)C=O)C(=O)OC)OC | C15H13FN2O4
reactant | K2CO3 | 2.69 mmol, 0.372 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3OH | 20 mL | CO | CH4O
reactant | Dimethyl 1-diazo-2-oxopropylphosphonate | 1.617 mmol, 0.311 g | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | methyl 4-amino-6-(4-ethynylphenyl)-5-fluoro-3-methoxypicolinate | 297 mg, 73% | NC1=C(C(=NC(=C1F)C1=CC=C(C=C1)C#C)C(=O)OC)OC | C16H13FN2O3
